US08247377B2
5-Amino-N-(2-{[[(2-chloro-6-fluorophenyl)carbonyl](methyl)amino]methyl}-3,3,3-trifluoro-2-hydroxypropyl)-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide
Similarly prepared to Example 6 from 5-amino-1-(4-fluorophenyl)-N-{3,3,3-trifluoro-2-hydroxy-2-[(methylamino)methyl]propyl}-1H-pyrazole-4-carboxamide and 2-chloro-6-fluorobenzoic acid.

reactant | 5-amino-1-(4-fluorophenyl)-N-{3,3,3-trifluoro-2-hydroxy-2-[(methylamino)methyl]propyl}-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(CNC)O | C15H17F4N5O2
reactant | 2-chloro-6-fluorobenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)F | C7H4ClFO2
product | 5-Amino-N-(2-{[[(2-chloro-6-fluorophenyl)carbonyl](methyl)amino]methyl}-3,3,3-trifluoro-2-hydroxypropyl)-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CN(C)C(=O)C1=C(C=CC=C1F)Cl | C22H19ClF5N5O3
